US08957070B2
N-{2-[(2-Acetylhydrazino)carbonyl]-1H-indol-7-yl}thiophene-2-sulfonamide
To a mixture of 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (0.70 g), 1H-1,2,3-benzotriazol-1-ol (0.36 g) and N,N-dimethylformamide (8 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.51 g) at room temperature. The mixture was stirred for 10 min and acetohydrazide (0.33 g) was added. The reaction mixture was stirred at room temperature for 2 hr, and water was added. The resulting crystals were filtrated, washed with water, and dried to give the title compound (0.65 g, yield 77%) as colorless crystals. melting point 254-256° C.

reactant | 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.70 g | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)O | C13H10N2O4S2
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.36 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.51 g | Cl.CN(CCCN=C=NCC)C
reactant | acetohydrazide | 0.33 g | C(C)(=O)NN | C2H6N2O
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | N-{2-[(2-Acetylhydrazino)carbonyl]-1H-indol-7-yl}thiophene-2-sulfonamide | 0.65 g, yield 77% | C(C)(=O)NNC(=O)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C15H14N4O4S2
